US03994918
A mixture of 10.5 g. of spiro [dibenzo[a,d]cycloheptene-5,2'-oxirane] and 100 ml. of anhydrous hydrazine is refluxed for 3 hours, the resulting mixture evaporated in vacuo to about 50 ml., cooled, the resulting crystals filtered off and washed generously with water. The crude solid is taken up in methylene chloride, extracted with water and then with saturated sodium chloride solution, dried and evaporated in vacuo. The residue is crystallized from ethyl acetate to obtain 5-hydrazinomethyl-5H-dibenzo[a,d]cyclo-hepten-5-ol, m.p. 128°-131° C.

reactant | spiro [dibenzo[a,d]cycloheptene-5,2'-oxirane] | O1C2(C1)C1=C(C=CC3=C2C=CC=C3)C=CC=C1 | C16H12O
reactant | hydrazine | NN | H4N2
product | 5-hydrazinomethyl-5H-dibenzo[a,d]cyclo-hepten-5-ol | N(N)CC1(C2=C(C=CC3=C1C=CC=C3)C=CC=C2)O | C16H16N2O
